US07276505B2
Step 4: Preparation of 4-(6-fluoro-3-oxo-1,3-dihydro-2H-pyrazolo[4,3-c]cinnolin-2-yl)benzoic acid
Crude 8-Fluoro-4-hydroxycinnoline-3-carboxylate from the previous stage (1.00 g, 4.95 mmol) was dissolved in thionyl chloride (50 ml). The solution was heated to reflux for 2-3 h until no further gas evolution was observed. The reaction mixture was cooled to room temperature and excess thionyl chloride was removed under vacuum. The crude intermediate was azeotroped with toluene (3×25 ml). A dark brown solid was obtained, which was taken up in ethanol (25 ml). 4-Hydrazinobenzoic acid (640 mg, 4.21 mmol) was added and the mixture was stirred at room temperature overnight. The solids were collected by filtration, slurried in 1 M HCl (100 ml), filtered, washed with hexane (50 ml) and dried under vacuum. A brown solid was obtained (890 mg of crude product). LCMS: m/z [M+H]+ 325.

reactant | 8-Fluoro-4-hydroxycinnoline-3-carboxylate | FC=1C=CC=C2C(=C(N=NC12)C(=O)[O-])O
reactant | 4-Hydrazinobenzoic acid | 4.21 mmol, 640 mg | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
solvent | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-(6-fluoro-3-oxo-1,3-dihydro-2H-pyrazolo[4,3-c]cinnolin-2-yl)benzoic acid | 890 mg | FC1=CC=CC=2C3=C(N=NC12)C(N(N3)C3=CC=C(C(=O)O)C=C3)=O | C16H9FN4O3
